US07989433B2
A mixture of 5,5-difluoro-1-oxaspiro[2.3]hexane+3 eq. CH2Cl2 (22.52 g, 0.06 mol), potassium 2-methoxy-4-nitrophenolate (12.43 g, 0.060 mol) prepared in Part E and NaH2PO4.H2O (7.45 g, 0.054 mol) in 50 mL MeCN-water (85:15) was heated at 130° C. in a steel bomb for 3.5 h. The reaction mixture was diluted with EtOAc, washed with 5% Na2CO3, dried (MgSO4) and concentrated. The crude product was recrystallized from ca. 150 mL MTBE giving 3,3-difluoro-1-((2-methoxy-4-nitrophenoxy)methyl)cyclo-butanol (11.2 g, 0.039 mol, 64.5% yield) as a light yellow solid. An additional 1.2 g of a slightly less pure desired product was obtained upon concentration of the mother liquor to ca. 50 mL. 1H NMR (400 MHz, CDCl3) δ ppm 7.89 (1 H, dd, J=8.94, 2.64 Hz), 7.76 (1 H, d, J=2.77 Hz), 6.95 (1 H, d, S=9.06 Hz), 4.16 (2 H, s), 3.94 (3 H, s), 3.36 (1 H, s), 2.73-2.92 (4 H, m).

reactant | 5,5-difluoro-1-oxaspiro[2.3]hexane | 3 eq | FC1(CC2(CO2)C1)F | C5H6F2O
reactant | CH2Cl2 | 0.06 mol, 22.52 g | C(Cl)Cl | CH2Cl2
reactant | potassium 2-methoxy-4-nitrophenolate | 0.060 mol, 12.43 g | COC1=C(C=CC(=C1)[N+](=O)[O-])[O-].[K+]
solvent | MeCN water | 50 mL | CC#N.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3,3-difluoro-1-((2-methoxy-4-nitrophenoxy)methyl)cyclo-butanol | 0.039 mol, 11.2 g, 64.5% yield | FC1(CC(C1)(O)COC1=C(C=C(C=C1)[N+](=O)[O-])OC)F | C12H13F2NO5
